US09120777B2
H) 1-(1-(4,5-Dicyclopropyl-3-fluoro-2-isopropoxybenzyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid
A 2 M aqueous sodium hydroxide solution (2 mL) was added to an ethanol (8 mL) solution of methyl 1-(1-(4,5-dicyclopropyl-3-fluoro-2-isopropoxybenzyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate (358 mg), and the mixture was stirred at 80 C for 3 hours in a nitrogen atmosphere. The solvent in the reaction mixture was distilled off under reduced pressure. The obtained residue was dissolved in water, and the solution was neutralized with 2 M hydrochloric acid, followed by extraction with a mixed solution of ethyl acetate and THF. The obtained organic layer was washed with water and saturated saline in this order and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was crystallized (ethyl acetate/hexane) and further recrystallized (ethyl acetate/hexane) to obtain the title compound (258 mg).

reactant | sodium hydroxide | 2 M, 2 mL | [OH-].[Na+]
reactant | methyl 1-(1-(4,5-dicyclopropyl-3-fluoro-2-isopropoxybenzyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylate | 358 mg | C1(CC1)C1=C(C(=C(CN2CCC(CC2)N2C(C(=C(C=C2)C(=O)OC)CC)=O)C=C1C1CC1)OC(C)C)F | C30H39FN2O4
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 1-(1-(4,5-Dicyclopropyl-3-fluoro-2-isopropoxybenzyl)piperidin-4-yl)-3-ethyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 258 mg | C1(CC1)C1=C(C(=C(CN2CCC(CC2)N2C(C(=C(C=C2)C(=O)O)CC)=O)C=C1C1CC1)OC(C)C)F | C29H37FN2O4
